US07259266B2
Step 1. Preparation of ethyl 8-(pyridin-4-vlethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (1.00 g, 2.07 mmole), 4-pyridylacetylene (419 uL, 4.15 mmole), CuI (39 mg, 0.207 mmole), PdCI2(dppf)2-CH2Cl2 (169 mg, 0.207 mmole) and TEA (0.866 mL, 6.21 mmole) in anhydrous toluene (10 mL) was stirred at room temperature for 5 days under a N2 atmosphere. The mixture was then diluted with hexanes and purified by silica chromatography (0% to 75% EtOAc:hexanes gradient) to give 0.34 g (36% yield) of the product as a pale yellow crystalline solid: ESHRMS m/z 458.0822 (M+H, C21H14F6NO4, Calc'd 458.0822).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | 4-pyridylacetylene | 4.15 mmole, 419 uL | N1=CC=C(C=C1)C#C | C7H5N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.207 mmole, 39 mg | [Cu]I
product | ethyl 8-(pyridin-4-vlethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.34 g, 36% yield | N1=CC=C(C=C1)C#CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C21H13F6NO4
